Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Seroquel / Erythromycin Base / 
Reglan / Elavil / nortriptyline
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
G to GJ exchange

attach
 
Pertinent Results:
ADMISSION LABS
=============
___ 03:53PM BLOOD WBC-9.1 RBC-4.74 Hgb-14.7 Hct-44.8 MCV-95 
MCH-31.0 MCHC-32.8 RDW-12.7 RDWSD-43.8 Plt ___
___ 03:53PM BLOOD Neuts-62.6 ___ Monos-7.2 Eos-4.3 
Baso-0.5 Im ___ AbsNeut-5.70 AbsLymp-2.29 AbsMono-0.66 
AbsEos-0.39 AbsBaso-0.05
___ 03:53PM BLOOD Glucose-86 UreaN-10 Creat-0.8 Na-140 
K-4.2 Cl-105 HCO3-21* AnGap-14
___ 03:53PM BLOOD ALT-15 AST-16 AlkPhos-80 TotBili-0.7
___ 03:53PM BLOOD Albumin-4.5 Calcium-9.8 Phos-2.8 Mg-2.1
___ 03:53PM BLOOD Lithium-0.4*

DISCHARGE LABS
=============
___ 07:10AM BLOOD WBC-8.2 RBC-4.29 Hgb-13.6 Hct-40.3 MCV-94 
MCH-31.7 MCHC-33.7 RDW-12.6 RDWSD-43.0 Plt ___
___ 07:10AM BLOOD Glucose-87 UreaN-8 Creat-0.8 Na-142 K-4.2 
Cl-108 HCO3-23 AnGap-11
___ 07:10AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.0

IMAGING
======
Abdominal Xray ___
FINDINGS: 
There are no abnormally dilated loops of large or small bowel.
Supine assessment limits detection for free air; there is no 
gross
pneumoperitoneum.
Osseous structures are unremarkable.
There are no unexplained soft tissue calcifications or 
radiopaque foreign
bodies. There is a gastrostomy tube in the left upper quadrant.  
There is a
IUD.
 
IMPRESSION: 
Gastrostomy tube projects over the left upper quadrant.  No 
abnormally dilated
bowel loops.

PERC G/J TUBE CHECK/REPLACE/REPOStudy Date of ___ 3:41 
___
FINDINGS: 
1.  Appropriately positioned new ___ ___ MIC 
gastrojejunostomy tube.
 
IMPRESSION: 
Successful exchange of a gastrojejunostomy tube for a new 18  
___ MIC
gastrojejunostomy tube. The tube is ready to use.
 
RECOMMENDATION(S):  We will stock AMT tubes in 4, 4.5 and 5 cm 
stoma length
for Ms. ___ subsequent exchange.
 
 
Brief Hospital Course:
SUMMARY
=======
Ms. ___ is a ___ female with a history of gastroparesis, 
history of eating disorder, SIBO, GERD and G-tube placed 
initially in ___ who presented for worsening abdominal pain, 
increased stool
output and inability to tolerate PO. She underwent ___ evaluation 
conversion of enteral access from G tube to G-J tube. Her pain 
and stool output were treated symptomatically and she improved. 
Nutrition evaluated her and made recommendations regarding tube 
feedings at home. She was discharged home in good condition with 
follow-up by interventional radiology and gastroenterology.

ACUTE ISSUES:
=============
#Acute on Chronic Diarrhea
#Gastroparesis
#Enteral access
Ms. ___ state she has been doing well for the past few years
and in the past 6 weeks has had increased diarrhea from her
baseline diarrhea and increased nausea. She reached out to her
outpatient gastroenterologist late last week to discuss her
symptoms. Appears as though her inability to tolerate PO became
more severe last week, at which time she was using her g-tube 
for hydration
iso significant diarrhea. Pt she did not note any inciting event 
for
sudden onset of symptoms. No known sick contacts in the past 
week, no documented fevers here. Does not feel g-tube is 
malfunctioned
but that perhaps her gastroparesis has worsened iso eating
whatever she wants over the past year and more recently. It is 
possible that she has had worsening of gastroparesis (though 
unclear
why this would cause increased stool output or her symptoms) or
perhaps flare of her SIBO. She was worked up and infectious 
etiology was thought to to be less likely given no leukocytosis, 
no left shift, no sick contacts, no fevers documented on 
admission. She has no history of IBS or colitis, no bloody 
stool, no urgency otherwise. Interventional radiology converted 
her G-tube with a GJ tube. Home omeprazole was continued. She 
received pain control with Tylenol and 1 dose of IV Dilaudid. 
She received loperamide as needed for diarrhea. Scheduled for 
follow-up with GI as outpatient and connected her with 
interventional radiology follow-up. Nutrition was consulted for 
recommendations regarding need for tube feeds and recommended 
Isosource 1.5 (full recommendations under diet info). 

CHRONIC ISSUES
==============
#Bipolar d/o: continued home lithium  600 mg qam, 150 mg qpm
#Anxiety/Sleep: Continued home ClonazePAM 3 mg PO/NG QHS Sleep, 
continued
home TraZODone 200 mg PO/NG QHS Sleep 
#Hypothyroid: Levothyroxine Sodium 88 mcg PO/NG DAILY

TRANSITIONAL ISSUES
===================
[] follow-up with Dr. ___ in ___ clinic for discussion of further 
pharmacologic therapy and ongoing need for G/J tube
[] ___ f/u for tube exchange for low profile tube in 3 mos

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sumatriptan Succinate 100 mg PO ONCE MR1 HA  
2. Levothyroxine Sodium 88 mcg PO DAILY 
3. Vitamin D ___ UNIT PO 1X/WEEK (SA) 
4. Amphetamine-Dextroamphetamine 20 mg PO BID 
5. Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea  
6. ClonazePAM 3 mg PO QHS Sleep 
7. TraZODone 200 mg PO QHS Sleep  
8. Omeprazole 20 mg PO DAILY 
9. Lithium Carbonate 600 mg PO QAM 
10. Lithium Carbonate 150 mg PO QHS 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea   
2.  Amphetamine-Dextroamphetamine 20 mg PO BID  
3.  ClonazePAM 3 mg PO QHS Sleep  
4.  Levothyroxine Sodium 88 mcg PO DAILY  
5.  Lithium Carbonate 600 mg PO QAM  
6.  Lithium Carbonate 150 mg PO QHS  
7.  Omeprazole 20 mg PO DAILY  
8.  Sumatriptan Succinate 100 mg PO ONCE MR1 HA   
9.  TraZODone 200 mg PO QHS Sleep   
10.  Vitamin D ___ UNIT PO 1X/WEEK (SA)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
GASTROPARESIS
SIBO
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
-He came to the hospital because you are having worsening 
abdominal pain, nausea and inability to tolerate food by mouth.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-While you were in the hospital we treated your symptoms with 
antidiarrheals and pain medication as well as antinausea 
medication.

–The interventional radiology team changed your G-tube to a GJ 
tube to hopefully help manage her symptoms better.

–We connected you with an outpatient GI follow-up.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please continue to take all of your medications as directed
- Please follow up with all the appointments scheduled with your 
doctor
- We have scheduled you with an outpatient appointment with Dr. 
___.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team
 
Followup Instructions:
___